US09428452B2
4-(1,2-dihydroxy-3-morpholinopropyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide α-enantiomer)
AD-Mix-alpha (73.4 mg, 0.052 mmol) was stirred at room temperature in tert-butanol (2 mL) and water (2.000 mL) until two clear phases seen. Methanesulfonamide (4.99 mg, 0.052 mmol) was added to the solution and the mixture cooled to 0° C. (E)-N-(2,4-dimethylphenyl)-N-isobutyl-4-(3-morpholinoprop-1-en-1-yl)benzenesulfonamide (23.2 mg, 0.052 mmol) was added and the mixture stirred vigorously at 0° C. to room temperature over 2 days. The reaction was cooled again to 0° C. and further AD-Mix-alpha (73.4 mg, 0.052 mmol) was added, then the reaction stirred at 0° C. for 4 hours, after which time a third portion of AD-Mix-alpha (73.4 mg, 0.052 mmol) was added. Stirring was continued from 0° C. to room temperature over the weekend. The reaction was again cooled to 0° C. and a final portion of AD-Mix-alpha (73.4 mg, 0.052 mmol) was added along with additional methanesulfonamide (4.99 mg, 0.052 mmol). Reaction was stirred overnight from 0° C. to room temperature. After this time, the reaction was cooled at 0° C. and stirred for 1 hour, then sodium sulfite (70 mg, 0.555 mmol) was added to the solution and the mixture was stirred at room temperature for 40 minutes. Ethyl acetate (10 mL) was added and the organics separated, the aqueous phase was extracted with further ethyl acetate (3×5 mL). The combined organic layers were washed with sodium hydroxide solution (2 M, 10 mL), dried and concentrated under vacuum. Purification was carried out by mass directed autoprep (Method N) to provide the desired product, 4 mg, of unknown enantiomeric excess (referred to herein as α-enantiomer). LCMS [LCMS2] Rt 1.18 min, m/z (ES+) 477 (M+H).

reactant | AD-Mix-alpha | 0.052 mmol, 73.4 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Methanesulfonamide | 0.052 mmol, 4.99 mg | CS(=O)(=O)N | CH5NO2S
reactant | (E)-N-(2,4-dimethylphenyl)-N-isobutyl-4-(3-morpholinoprop-1-en-1-yl)benzenesulfonamide | 0.052 mmol, 23.2 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)\C=C\CN1CCOCC1)CC(C)C | C25H34N2O3S
reactant | AD-Mix-alpha | 0.052 mmol, 73.4 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | AD-Mix-alpha | 0.052 mmol, 73.4 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | AD-Mix-alpha | 0.052 mmol, 73.4 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 0.052 mmol, 4.99 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium sulfite | 0.555 mmol, 70 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2.000 mL | O | H2O
product | 4-(1,2-dihydroxy-3-morpholinopropyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide | OC(C(CN1CCOCC1)O)C1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C25H36N2O5S
